US06919353B2
A solution of bis-(4-chloro-phenyl)-methanone (5.0 g, 19.9 mmol) and hydrazine monohydrate (5 mL, 103 mmol) in ethanol (25 mL) was heated to reflux 18 h, cooled to 21° C., and filtered to afforded the [bis-(4-chloro-phenyl)-methylene]-hydrazine compound as a yellow solid.

reactant | bis-(4-chloro-phenyl)-methanone | 19.9 mmol, 5.0 g | ClC1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)Cl | C13H8Cl2O
reactant | hydrazine monohydrate | 103 mmol, 5 mL | O.NN
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | [bis-(4-chloro-phenyl)-methylene]-hydrazine | ClC1=CC=C(C=C1)C(C1=CC=C(C=C1)Cl)=NN | C13H10Cl2N2
